US05089496
8-CHLORO-11-(1-ACETYL-4-PIPERAZINYL)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE
A mixture of 1.989 (7.50 mmole) of 8,11-dichloro-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine, 1.169 (9.05 mmole) of N-acetylpiperazine, and 2.0 mL of triethylamine in 20 mL of dry THF was refluxed under a nitro9en atmosphere for 16 hr. It was then poured into 5% aqueous sodium hydroxide and extracted three times with methylene chloride. The combined organic portions were dried over MgSO4, filtered and concentrated in vacuo to yield a product which was purified by flash chromatography (5% CH3OH in CHCl3) to afford 1.71g of the title compound as a glass.

reactant | 8,11-dichloro-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2Cl)C1 | C14H11Cl2N
reactant | N-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 8-CHLORO-11-(1-ACETYL-4-PIPERAZINYL)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE | 1.71g | ClC=1C=CC2=C(CCC=3C(=NC=CC3)C2N2CCN(CC2)C(C)=O)C1 | C20H22ClN3O
